US04115095
Preparation of Ethyl 2-Oxo-1,3,4-Oxathiazole-5-Carboxylate
A mixture of 99.7 g (0.85 mol) of ethyl oxamate and 552 g (4.23 mol) of chlorocarbonylsulfenyl chloride, prepared in accordance with British Pat. No. 1,079,348, in toluene was held at reflux for 5.25 hours and then was concentrated under vacuum. Benzene was added to the residue, and the solution was extracted twice with water, twice with 5% NaHCO3, again with water, and was dried (CaSO4) and concentrated under vacuum. The residual oil was filtered to remove sulfur and was crystallized twice from methylcyclohexane to give 95.61 g (64%) of white solid, mp 49°-50.5 C.

reactant | ethyl oxamate | 0.85 mol, 99.7 g | C(C(=O)N)(=O)OCC | C4H7NO3
reactant | chlorocarbonylsulfenyl chloride | 4.23 mol, 552 g | ClC(=O)SCl | CCl2OS
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-Oxo-1,3,4-Oxathiazole-5-Carboxylate | 95.61 g, 64% | O=C1OC(=NS1)C(=O)OCC | C5H5NO4S
